US07625880B2
Cyclopropylmethyl-phosphonic dichloride (8.43 g, 48.7 mmol) was dissolved in dry THF (70 mL), placed under a nitrogen atmosphere, and chilled to −70° C. To this stirred solution was added dropwise vinyl magnesium bromide in THF (122 mL, 1 M). The resulting solution was stirred for 90 minutes at −70° C. An aqueous solution of ammonium chloride (500 mL, 2 M) was chilled to 0° C. and stirred rapidly while the cold reaction mixture was added. The product was extracted into dichloromethane and washed with saturated aqueous sodium bicarbonate and then with water. The organic phase was dried with sodium sulfate, filtered, and concentrated by rotary evaporation to yield 3.56 g of (cyclopropylmethyl)-divinyl-phosphine oxide (22.8 mmol, 47%) as a white solid. 1H NMR (400 MHz, CDCl3) δ 6.44-6.14 (m, 6H); 1.84-1.78 (d of d, 2H) 0.98-0.86 (m, 1H); 0.66-0.60 (m, 2H); 0.25-0.19 (m, 2H); ESMS (m/z): (M+1)+ found, 157; (M−1)− found, 155.

reactant | Cyclopropylmethyl-phosphonic dichloride | 48.7 mmol, 8.43 g | C1(CC1)CP(=O)(Cl)Cl | C4H7Cl2OP
reactant | vinyl magnesium bromide | C(=C)[Mg]Br
reactant | ammonium chloride | 2 M, 500 mL | [Cl-].[NH4+]
reactant | THF | 70 mL | C1CCOC1 | C4H8O
reactant | THF | 1 M, 122 mL | C1CCOC1 | C4H8O
product | (cyclopropylmethyl)-divinyl-phosphine oxide | 22.8 mmol, 3.56 g, 47% | C1(CC1)CP(C=C)(C=C)=O | C8H13OP
